US04395411
A solution of 7-[2-allyloxyimino-2-(6-formamidopyridin-2-yl)acetamido]-3-(5-tert-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer) (2.7 g) in formic acid (27 ml) was stirred for 2 hours at ambient temperature and evaporated to dryness. To the residue were added methanol (50 ml) and concentrated hydrochloric acid (0.82 g), and the mixture was stirred for an hour at ambient temperature. The solvent was evaporated and the residue was dissolved in water (50 ml), adjusted to pH 4 to 5 with an aqueous solution of sodium bicarbonate, treated with an activated charcoal and then subjected to column chromatography over nonionic adsorption resin, "Diaion HP 20" (80 ml). The column was washed with water and eluted with 50% aqueous methanol. The eluent containing a desired compound was evaporated to remove the methanol and then lyophilized to give 7-[2-allyloxyimino-2-(6-aminopyridin-2-yl)acetamido]-3-(5-aminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer) (0.6 g), mp 180° C. (dec.).

reactant | 7-[2-allyloxyimino-2-(6-formamidopyridin-2-yl)acetamido]-3-(5-tert-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 2.7 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNC(=O)OC(C)(C)C)C(=O)O)C1=O)C1=NC(=CC=C1)NC=O | C27H30N8O8S3
solvent | formic acid | 27 ml | C(=O)O | CH2O2
product | 7-[2-allyloxyimino-2-(6-aminopyridin-2-yl)acetamido]-3-(5-aminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 0.6 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CN)C(=O)O)C1=O)C1=NC(=CC=C1)N | C21H22N8O5S3
